US06603012B2
Preparation of (RS)-ethyl 2-(4-nitrophenyl)-heptanoate
1 g of ethyl 4-nitrophenylacetate dissolved in 20 ml of dimethylformamide was treated with 3.12 g of cesium carbonate and 0.68 ml of iodopentane. The mixture was stirred at room temperature for 18 hours. The mixture was poured onto 50 ml of iced water and the resulting mixture was extracted with two portions of 50 ml ether. The combined organic extracts were dried over MgSO4 and concentrated in vacuo. The product was purified by flash chromatography (SiO2, 20% ethyl acetate/hexanes), yielding a pale yellow oil. 1H NMR (CDCl3): 8.18 (d, J=8.6 Hz, 2H), 7.49 (d, J=8.8 Hz, 2H), 4.25-4.00 (m, 2H), 3.64 (t, J=7.7 Hz, 1H), 2.20-2.00 (m, 1H), 1.85-1.70 (m, 1H), 1.45-1.15 (m, 6H), 1.22 (t, J=7.2 Hz, 3H), 0.90-0.80 (m, 3H).

reactant | ethyl 4-nitrophenylacetate | 1 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)OCC | C10H11NO4
reactant | cesium carbonate | 3.12 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodopentane | 0.68 ml | ICCCCC | C5H11I
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (RS)-ethyl 2-(4-nitrophenyl)-heptanoate | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)CCCCC | C15H21NO4
